US06875784B2
Diisopropylethylamine (0.56 mL, 3.2 mmol) and 3,4-difluoronitrobenzene (0.184 g, 1.16 mmol) were added to a solution 3-aza-bicyclo[3.1.0]hexane (0.152 g of HCl salt, 1.28 mmol; prepared as described in U.S. Pat. No. 4,183,857) in DMF (3.2 mL). The mixture was heated for three days at 45° C. and then cooled to room temperature. The solution was diluted with ethyl acetate and washed with 0.5 M HCl, saturated NaHCO3, brine, and dried (MgSO4). The mixture was filtered and concentrated to give 3-(2-fluoro-4-nitro-phenyl)-3-aza-bicyclo[3.1.0]hexane as a yellow solid.

reactant | Diisopropylethylamine | 3.2 mmol, 0.56 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4-difluoronitrobenzene | 1.16 mmol, 0.184 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-aza-bicyclo[3.1.0]hexane | C12CNCC2C1 | C5H9N
reactant | HCl | 0.152 g | Cl | ClH
solvent | DMF | 3.2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-fluoro-4-nitro-phenyl)-3-aza-bicyclo[3.1.0]hexane | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CC2CC2C1 | C11H11FN2O2
